US04152450
Exhaustive acylation of 9-amino and 9-acylaminodibenzo[b,d]pyrans effects peracylation to afford 1-acyloxy-9-diacylamino-hexahydro-dibenzo[b,d]pyrans. Such peracylation can be effected by reacting either a 9-amino or a 9-acylamino-hexahydro-dibenzo[b,d]pyran with an excess of an acylating agent, for example from about 2 to 10 molar excess, as well as carrying out the reaction at an elevated temperature of about 60° to about 150° C. The peracylation is carried out in the presence of a strong base such as sodium hydride. As an illustration of peracylation, a compound such as dl-cis-1-hydroxy-3-(2-hexenyl)-9-acetamido-6a,7,8,9,10,10a-hexahydro-6H-dibenzo[b,d]pyran can be reacted with about a 5 molar excess of propionyl bromide in the presence of sodium hydride at about 100° C. for about seventy-two hours to afford dl-cis-1-propionoxy-3-(2-hexenyl)-9-(N-propionyl)acetamido-6a,7,8,9,10,10a-hexahydro-6H-dibenzo[b,d]pyran.

reactant | sodium hydride | [H-].[Na+]
reactant | cis-1-hydroxy-3-(2-hexenyl)-9-acetamido-6a,7,8,9,10,10a-hexahydro-6H-dibenzo[b,d]pyran | OC1=CC(=CC=2OCC3C(C21)CC(CC3)NC(C)=O)C\C=C/CCC | C21H29NO3
reactant | propionyl bromide | C(CC)(=O)Br | C3H5BrO
product | cis-1-propionoxy-3-(2-hexenyl)-9-(N-propionyl)acetamido-6a,7,8,9,10,10a-hexahydro-6H-dibenzo[b,d]pyran | C(CC)(=O)OC1=CC(=CC=2OCC3C(C21)CC(CC3)N(C(C)=O)C(CC)=O)C\C=C/CCC | C27H37NO5
